US20010027196A1
To a stirred solution of 1.11 g (4.52 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 10 ml dry DMF under argon at room temperature were added 2.00 g (5.42 mmol) 2-(tri-n-butylstannanyl)pyrazine, 190 mg (0.27 mmol) bis(triphenylphosphine)palladium(II) chloride and 431 mg (5.42 mmol) copper(II) oxide. The reaction mixture was heated at reflux for 18 h, then cooled to room temperature and concentrated in vacuo. Flash chromatography (ethyl acetate/hexane 1/1 then ethyl acetate) afforded 344 mg (31%) 2-amino-4-methylsulfanyl-6-pyrazin-2-yl-pyrimidine-5-carbonitrile as an off-white crystalline solid. EI-MS m/e (%): 244 (M+, 100), 243 ([M—H]+, 40), 190 (55).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 4.52 mmol, 1.11 g | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 2-(tri-n-butylstannanyl)pyrazine | 5.42 mmol, 2.00 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.27 mmol, 190 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(II) oxide | 5.42 mmol, 431 mg | [Cu]=O
product | 2-amino-4-methylsulfanyl-6-pyrazin-2-yl-pyrimidine-5-carbonitrile | 344 mg, 31% | NC1=NC(=C(C(=N1)SC)C#N)C1=NC=CN=C1 | C10H8N6S
